US05071983
2',3'-Dideoxycytidine (2.4 mmoles, 0.5 g, Pharmacia, Piscataway, N.J.), dimethylaminopyridine (0.178 mmoles, 21.7 mg) triethylamine (6.34 mmoles), and propionic anhydride (5.67 mmoles; Aldrich Chemicals Milwaukee, Wis.) were suspended in 50 ml of acetonitrile. The reaction was allowed to proceed at room temperature for 24 hours after which time 10 ml of methanol were added. The solvent from the reaction was removed under vacuum and the residue chromatographed on a column of silica gel, 5×40 cm. The mobile phase was chloroform/methanol (9:1; v/v). The product containing peak was collected and the solvent removed under vacuum. The residue was dissolved in 95% ethanol/water (v/v) and dried under vacuum. This was repeated a second time. A third cycle was also initiated with the solution being filtered through a 0.45 mμ filter before drying. The residue was dissolved with water and lyophilized to yield 0.747 g of 2',3'-dideoxy-N4,5'-O-dipropionylcytidine.

reactant | 2',3'-Dideoxycytidine | 2.4 mmoles, 0.5 g | [C@@H]1(CC[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O3
reactant | propionic anhydride | 5.67 mmoles | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | methanol | 10 ml | CO | CH4O
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | dimethylaminopyridine | 0.178 mmoles, 21.7 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | 2',3'-dideoxy-N4,5'-O-dipropionylcytidine | 0.747 g | C(CC)(=O)NC1=NC(N([C@H]2CC[C@@H](COC(CC)=O)O2)C=C1)=O | C15H21N3O5
